US09334292B2
Preparation of ethyl 4-(2-chloro-3-nitropyridin-4-yl)benzoate
A dry, argon-filled Schlenk tube with a magnetic stirrer bar and septum is initially charged with (TMP)2Zn.MgCl2 (3.16 ml, 1.2 mmol). After adding 2-chloro-3-nitropyridine (159 mg, 1 mmol) in anhydrous THF (2 ml) at 25° C., the mixture is stirred for 1 min, then a solution of ethyl 4-iodobenzoate (387 mg, 1.4 mmol), bis(dibenzylideneacetone)palladium(0) (17 mg, 3 mol %) and tri-2-furylphosphine (14 mg, 6 mol %) in anhydrous THF (2 ml) is added dropwise and the mixture is stirred at 25° C. for 1 h. For workup, the mixture is diluted with aqueous sat. NH4Cl solution (30 ml) and extracted with ethyl acetate (3×30 ml). After the combined organic phases have been dried over Na2SO4, the solvent has been distilled off and purification has been effected by column chromatography on silica gel (heptane:ethyl acetate), the desired compound (177 mg, 58% of theory) was obtained as a yellowish oil.

reactant | MgCl2 | 1.2 mmol, 3.16 ml | [Mg+2].[Cl-].[Cl-]
reactant | 2-chloro-3-nitropyridine | 1 mmol, 159 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | ethyl 4-iodobenzoate | 1.4 mmol, 387 mg | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | tri-2-furylphosphine | 14 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | NH4Cl | 30 ml | [NH4+].[Cl-]
catalyst | bis(dibenzylideneacetone)palladium(0) | 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | ethyl 4-(2-chloro-3-nitropyridin-4-yl)benzoate | 177 mg, 58% | ClC1=NC=CC(=C1[N+](=O)[O-])C1=CC=C(C(=O)OCC)C=C1 | C14H11ClN2O4
